US08445510B2
4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-1-methyl-1H-pyrazole-5-carboxamide
A mixture of 4-bromo-2-methyl-2H-pyrazole-3-carboxylic acid (20.0 mg, 0.0976 mmol), NH4Cl (52.2 mg, 0.976 mmol), TBTU (62.6 mg, 0.195 mmol), DIPEA (0.170 mL, 0.976 mmol) and DMF (2 mL, 20 mmol) was stirred at rt for 10 min. The material was extracted with EtOAc, and washed with sat. NaHCO3 (3×) to remove carboxylic acid starting material. The organic layer was concentrated in vacuo. 3-[(S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (15.0 mg, 0.0348 mmol), (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride (3.57 mg, 0.00488 mmol), K2CO3 (20.2 mg, 0.146 mmol) and 4:1 dioxane:H2O (1 mL, 10 mmol) were added, and the mixture was heated to 95° C. for 30 min. The solution was used directly for HPLC purification, and the fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.79 (d, J=7.3 Hz, 3H), 3.70 (br. s., 3H), 3.99 (s, 3H), 5.09-5.16 (m, 1H), 6.90 (dd, J=9.2, 4.2 Hz, 1H), 7.08 (t, J=8.8 Hz, 1H), 7.34 (s, 1H), 7.50 (s, 1H), 7.59 (br. s., 1H), 8.20 (br. s., 1H). MS (ES+): m/z=428.11/430.12 (100/50) [MH+]. HPLC: tR=1.34 min (polar—3 min, UPLC-ACQUITY).

reactant | 4-bromo-2-methyl-2H-pyrazole-3-carboxylic acid | 0.0976 mmol, 20.0 mg | BrC1=C(N(N=C1)C)C(=O)O | C5H5BrN2O2
reactant | NH4Cl | 0.976 mmol, 52.2 mg | [NH4+].[Cl-]
reactant | TBTU | 0.195 mmol, 62.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.976 mmol, 0.170 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 20 mmol, 2 mL | CN(C)C=O | C3H7NO
reactant | 3-[(S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.0348 mmol, 15.0 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
reactant | K2CO3 | 0.146 mmol, 20.2 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 10 mmol, 1 mL | O | H2O
catalyst | (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride | 0.00488 mmol, 3.57 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-1-methyl-1H-pyrazole-5-carboxamide | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C(=O)N)C | C21H19ClFN5O2
